US06147255
(b) 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)benzaldehyde
700 ml of DME, 2.4 g (2 mmol) of tetrakistriphenylphosphinepalladium(0) and 8.44 g (45.6 mmol) of 3-bromobenzaldehyde are introduced into a three-necked flask under a stream of nitrogen and the mixture is stirred for 10 minutes. A solution of 17 g (69.1 mmol) of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid in 25 ml of ethanol are then added, followed by 46 ml (91 mmol) of potassium carbonate solution (2 M) and the mixture is refluxed for four hours. The reaction medium is cooled and filtered and the solid is washed with bicarbonate solution and then with ethyl acetate. The solid obtained is recrystallized from ethanol and 7 g (50%) of the expected aldehyde are collected, with a melting point of 104-5° C.

reactant | DME | 700 ml | COCCOC | C4H10O2
reactant | 3-bromobenzaldehyde | 45.6 mmol, 8.44 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid | 69.1 mmol, 17 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | potassium carbonate | 91 mmol, 2 M, 46 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | tetrakistriphenylphosphinepalladium(0) | 2 mmol, 2.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)benzaldehyde | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=O)C=CC1 | C22H26O
